Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, emesis 
 
Major Surgical or Invasive Procedure:
Repair of an incarcerated ventral hernia with mesh

 
History of Present Illness:
___ with past medical history of hypothyroidism and depression 
and past surgical history notable for appendectomy, partial 
hysterectomy, Roux-en-Y gastric bypass complicated by 
incarcerated ventral hernia approximately ___ years ago, s/p 
exploratory laparotomy, lysis of adhesions and repair of hernia 
in ___. Per the operative report, no mesh was used (Dr. 
___. 

The pain started acutely at 4PM on ___ and is described as 
intermittent, crampy, and reaching an intensity of ___.  It has 
been accompanied by nausea and emesis.  At ___, exam was 
notable for incarcerated hernia and imaging concerning for small 
bowel obstruction within hernia. The patient was hemodynamically 
stable and labs were within normal limits, including a WBC of 
5.9 and lactate of 0.7. Per reports, given patient's complicated 
abdominal history, transfer to tertiary care ___ 
management was recommended. 

At time of surgical evaluation at ___, symptoms had resolved. 
Hernia is now soft and partially reducible and minimally tender. 
She denies nausea or emesis since early AM and is passing gas.  
 
She reports chronic back pain and kyphosis and walks with a 
"flat back." She also describes chronic abdominal pain, for 
which she has been given a diagnosis of rectus abdominis 
spasticity, and found relief with Botox injections. She states 
that her kyphosis exacerbates her hernia protrusion and 
discomfort. 

Otherwise, she denies further constitutional symptoms including 
chest pain, palpitations, fevers, chills, diarrhea, 
constipation, or other GI or GU symptoms.

 
ROS:
(+) per HPI; 14-point review of systems performed, pertinent 
positives noted above 

 
Past Medical History:
hypothyroidism, depression, morbid obesity, recurrent ventral
hernias, rectus abdominus laxity (treated with Botox)  

Past Surgical History: Appendectomy, hysterectomy, 
tonsillectomy,
ventral hernia repaired primarily, a Roux-en-Y gastric bypass.
 
Social History:
___
Family History:
n/c
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
Vitals: T99.6, HR88, BP142/68, RR18 98% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: non-labored breathing 
ABD: Soft, nondistended, minimally tender to palpation in
supra-umbilical region with palpable hernia defect with bowel,
partially reducible, no rebound or guarding, surgical incisions
well-healed 
Ext: No ___ edema, ___ warm and well perfused

DISCHARGE PHYSICAL EXAM 
Vitals: 97.9 119 / 70 76 20 96 Ra  
GEN: alert and oriented, in NAD 
HEENT: NC/AT, mucus membranes moist
CV: RRR
Pulm: no increased work of breathing 
ABD: soft, non-distended, longitudinal staples along midline 
without surrounding erythema or drainage 
Ext: No ___ edema
 
Pertinent Results:
ADMISSION LABS
___ 11:02AM   ___ PTT-23.6* ___
___ 11:02AM   NEUTS-69.0 ___ MONOS-8.5 EOS-0.7* 
BASOS-0.2 IM ___ AbsNeut-4.05 AbsLymp-1.24 AbsMono-0.50 
AbsEos-0.04 AbsBaso-0.01
___ 11:02AM   WBC-5.9 RBC-4.17# HGB-7.2*# HCT-26.4*# 
MCV-63*# MCH-17.3*# MCHC-27.3* RDW-20.1* RDWSD-45.0
___ 11:02AM   GLUCOSE-106* UREA N-6 CREAT-0.7 SODIUM-140 
POTASSIUM-5.4* CHLORIDE-107 TOTAL CO2-22 ANION GAP-11

DISCHARGE LABS
___ 07:18AM BLOOD WBC-5.8 RBC-3.79* Hgb-6.5* Hct-24.0* 
MCV-63* MCH-17.2* MCHC-27.1* RDW-19.7* RDWSD-44.3 Plt ___
___ 07:18AM BLOOD Plt ___
___ 07:18AM BLOOD Glucose-91 UreaN-12 Creat-0.7 Na-140 
K-3.6 Cl-102 HCO3-28 AnGap-10
___ 07:18AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.9

 
Brief Hospital Course:
Ms. ___ is a ___ with a hx of hypothyroidism, depression 
and multiple abdominal surgeries including appendectomy, partial 
hysterectomy, and Roux-en-Y gastric bypass complicated by 
incarcerated ventral hernia approximately ___ years ago, s/p 
exploratory laparotomy, lysis of adhesions and repair of hernia 
in ___. The patient presented to ___ initially 
with symptoms of abdominal pain, nausea and vomiting and was 
transferred to ___ for evaluation of early incarcerated 
ventral hernia. On review of imaging at ___ small bowel 
appeared primarily decompressed with equivocal evidence for 
bowel obstruction and symptoms appeared to be improving. However 
given history of recurrent symptoms, management options were 
discussed in depth with the patient and she elected to proceed 
with hernia repair. Patient was taken to the operating room on 
___ for incarcerated ventral hernia repair with mesh. There 
were no adverse events in the operating room; please see the 
operative note for full details. Patient recovered well post 
operatively and was tolerating a regular diet without further 
symptoms of nausea or vomiting. She was evaluated by ___ who felt 
she could be discharged home. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV 
hydromorphone and then she was later transitioned to IV toradol, 
and oxycodone once tolerating a diet. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO but following 
hernia repair the diet was advanced sequentially to a Regular 
diet, which was well tolerated. Patient's intake and output were 
closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. Of note she did have a few 
episodes of urinary incontinence. The patient denied any dysuria 
and mentioned that these symptoms were chronic. She remained 
afebrile with no leukocytosis and a negative UA. She was not 
given abx aside from in the perioperative setting. 

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

TRANSITIONAL ISSUES
===================
[]Staples along longitudinal incision to be removed at ___ 
clinic ___.
 
Medications on Admission:
Celexa 10mg, levothyroxine 120mcg (112mcg?) 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate Duration: 2 Days 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 capsule(s) by mouth every 6 hours as needed 
for pain Disp #*5 Capsule Refills:*0 
2.  Citalopram 10 mg PO DAILY  
3.  Levothyroxine Sodium 125 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incarcerated ventral hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were transferred to ___ with symptoms of abdominal pain, 
nausea and vomiting with concern for a strangulated hernia. 
Although your symptoms were improving on admission, we discussed 
options for a ventral hernia repair. You elected to proceed with 
surgery and underwent an uncomplicated hernia repair with mesh 
placement on ___. Following the surgery your diet was 
advanced as tolerated. You recovered well and were stable for 
discharge home. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon. Avoid driving or operating heavy machinery while taking 
pain medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

It was a pleasure taking care of you, 
Your ___ Surgery Team 
 
Followup Instructions:
___